US09447016B2
Tricaprin (Capric Acid: n=8)
To a 250-mL flask containing glycerol (5.0 g, 54.3 mmol) and equipped with a condenser, were added capric acid (37.4 g, 217.2 mmol) and calcium oxide (45.4 mg, 0.8 mmol). The mixture was heated at 175° C. under partial vacuum (1 Torr, water pump vacuum) for 22 hours. The temperature of the water in the condenser was approximately 35° C. in order to maintain a gentle reflux of the capric acid and to accelerate removal of water under vacuum. The reaction was cooled to room temperature and the residue dissolved in hot ethanol (95%, 400 mL). This solution was treated with charcoal, filtered over fiberglass and cooled in an ice bath at 0-5° C. for 2 hours. Tricaprin was crystallized as a white solid which was filtered and washed with cold ethanol (95%, 40 mL). Yield of product: 27.5 g (91%); mp 29-31° C.; 1H NMR (400 MHz, CDCl3): δ 5.22-5.29 (m, 1H), 4.29 (dd, J=11.9, J=4.3, 2H), 4.14 (dd, J=11.9, J=6.1, 2H), 2.26-2.34 (m, 6H), 1.54-1.65 (m, 6H), 1.18-1.36 (m, 36H), 0.87 (t, J=7.0, 9H). 13C NMR (101 MHz, CDCl3): δ 73.54, 173.13, 69.07, 62.32, 34.44, 34.27, 32.09, 29.67, 29.65, 29.51, 29.50, 29.34, 29.30, 25.13, 25.08, 22.90, 14.33; MS (ES) m/z 578 (M+Na+); HPLC: 5.6 min.

reactant | glycerol | 54.3 mmol, 5.0 g | OCC(O)CO | C3H8O3
reactant | capric acid | 217.2 mmol, 37.4 g | OC(=O)CCCCCCCCC | C10H20O2
reactant | calcium oxide | 0.8 mmol, 45.4 mg | [O-2].[Ca+2]
solvent | water | O | H2O
product | Tricaprin | CCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCC)OC(=O)CCCCCCCCC | C33H62O6
